US07235572B2
b] 4-Bromomethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-thiazole
4,5-Dimethyl-2-(4-trifluoromethyl-phenyl)-thiazole hydrochloride (2.6 g, 8.9 mmol) was suspended in ethyl acetate and ice water. Triethylamine (1.2 ml, 8.9 mmol) was added, the organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine/ice water 1/1 dried over sodium sulfate and the solvent was removed under reduced pressure. The residue was dried in vacuo and dissolved in acetonitrile (30 ml) under an argon atmosphere. The solution was cooled to 0° C., N-bromosuccinimide (2.05 g, 11.5 mmol) and 2,2′-azobis(2-methylpropionitrile) (145 mg, 0.89 mmol) were added and the reaction mixture was stirred at ambient temperature for 14 h. Water was added and the formed precipitate was filtered off, washed with water and dried in vacuo to give yellow crystals. The crystals were purified by column chromatography (silica gel, n-heptane/dichloromethane) to give 385 mg (1.2 mmol, 13%) of the title compound as off-white crystals.

reactant | 4,5-Dimethyl-2-(4-trifluoromethyl-phenyl)-thiazole hydrochloride | 8.9 mmol, 2.6 g | Cl.CC=1N=C(SC1C)C1=CC=C(C=C1)C(F)(F)F
reactant | Triethylamine | 8.9 mmol, 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | N-bromosuccinimide | 11.5 mmol, 2.05 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(2-methylpropionitrile) | 0.89 mmol, 145 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 4-Bromomethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-thiazole | 1.2 mmol, 385 mg, 13% | BrCC=1N=C(SC1C)C1=CC=C(C=C1)C(F)(F)F | C12H9BrF3NS
